US06184242B2
4-(4-Nitrobenzyl)-benzoic acid (1.03 g, 4 mmol) was dissolved in dichloromethane (40 mL). Oxalyl chloride (0.42 mL, 1.2 eq) was added to the mixture, followed by 1 drop of N,N-dimethylformamide. The mixture was stirred for 1 hour at room temperature and the solvents evaporated to give 4-(4-chlorocarbonylbenzyl)-nitrobenzene (1.10 g) as a pale yellow solid.

reactant | 4-(4-Nitrobenzyl)-benzoic acid | 4 mmol, 1.03 g | [N+](=O)([O-])C1=CC=C(CC2=CC=C(C(=O)O)C=C2)C=C1 | C14H11NO4
reactant | Oxalyl chloride | 0.42 mL, 1.2 eq | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
product | 4-(4-chlorocarbonylbenzyl)-nitrobenzene | 1.10 g | ClC(=O)C1=CC=C(CC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C14H10ClNO3
